### PR TITLE
[Merged by Bors] - refactor: generalise `IsLocalRingHom` to monoids

### PR DESCRIPTION
**Pull request by ericrbg**
This lets `IsLocalRingHom` take two monoids instead of rings. Furthermore, it moves lemmas to be available a bit earlier where they are relevant to other theories, and tries to adapt those theories to use them a bit better.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Associated.lean [hunk 1]
```diff
@@ -240,6 +240,14 @@ theorem Irreducible.dvd_comm [Monoid α] {p q : α} (hp : Irreducible p) (hq : I
   ⟨hp.dvd_symm hq, hq.dvd_symm hp⟩
 #align irreducible.dvd_comm Irreducible.dvd_comm
 
+theorem Irreducible.of_map [Monoid R] [Monoid S] [MonoidHomClass F R S] (f : F)
+  [h : IsLocalRingHom f] {x} (hfx : Irreducible (f x)) : Irreducible x :=
+  ⟨fun hu => hfx.not_unit <| hu.map f,
+   fun p q hx =>
+    let ⟨H⟩ := h
```
Comment (eric-wieser) [inline Mathlib/Algebra/Associated.lean:247]: Do we not have an API for this that avoids naming the instance?

File: Mathlib/Algebra/GroupWithZero/Units/Basic.lean [hunk 2]
```diff
@@ -94,6 +94,10 @@ theorem inverse_unit (u : M₀ˣ) : inverse (u : M₀) = (u⁻¹ : M₀ˣ) := by
   rw [inverse, dif_pos u.isUnit, IsUnit.unit_of_val_units]
 #align ring.inverse_unit Ring.inverse_unit
 
+theorem inverse_isUnit (x : M₀) (h : IsUnit x) : inverse x = ((h.unit⁻¹ : M₀ˣ) : M₀) := dif_pos h
```
Comment (eric-wieser) [inline Mathlib/Algebra/GroupWithZero/Units/Basic.lean:97]:
```suggestion
theorem inverse_of_isUnit (x : M₀) (h : IsUnit x) : inverse x = ((h.unit⁻¹ : M₀ˣ) : M₀) := dif_pos h
```
though actually now that I see this lemma I'm less sure that it's useful

File: Mathlib/Algebra/Hom/Units.lean [hunk 3]
```diff
@@ -512,3 +518,32 @@ protected theorem div_div_cancel_left (h : IsUnit a) : a / b / a = b⁻¹ := by
...
+#align is_unit_map_iff isUnit_map_iff
+
+@[simp]
+theorem IsUnit.of_map (f : F) [IsLocalRingHom f] (a) (h : IsUnit (f a)) : IsUnit a :=
+  IsLocalRingHom.map_nonunit a h
+#align is_unit_of_map_unit IsUnit.of_map
+
+theorem isLocalRingHom_of_leftInverse [MonoidHomClass G S R]
+  {f : F} (g : G) (hfg : Function.LeftInverse g f) : IsLocalRingHom f
+where map_nonunit a ha := by rwa [isUnit_map_of_leftInverse g hfg] at ha
```
Comment (eric-wieser) [inline Mathlib/Algebra/Hom/Units.lean:547]: Mathlib4 style is
```suggestion
theorem isLocalRingHom_of_leftInverse [MonoidHomClass G S R]
    {f : F} (g : G) (hfg : Function.LeftInverse g f) : IsLocalRingHom f where
  map_nonunit a ha := by rwa [isUnit_map_of_leftInverse g hfg] at ha
```

File: Mathlib/Algebra/Associated.lean (hunk 1 above)
Comment (ericrbg) [reply Mathlib/Algebra/Associated.lean:247]: this was done in the original proof for golf, we can just use the fully qualified name itself if that's preferrable. but this is a moved declaration that already existed

File: Mathlib/Algebra/GroupWithZero/Units/Basic.lean (hunk 2 above)
Comment (ericrbg) [reply Mathlib/Algebra/GroupWithZero/Units/Basic.lean:97]: we do need this lemma, it's one of the ones used in the proof about mapping ring.inverse

File: Mathlib/Algebra/Hom/Units.lean (hunk 3 above)
Comment (ericrbg) [reply Mathlib/Algebra/Hom/Units.lean]: I'm not sure I fully get it, so there's double indent on the second line of proofs, and then single indent on proof, with the `where` after the type?

File: Mathlib/Algebra/GroupWithZero/Units/Basic.lean (hunk 2 above)
Comment (riccardobrasca) [reply Mathlib/Algebra/GroupWithZero/Units/Basic.lean:97]: BTW `x` can be implicit.

File: Mathlib/Algebra/Hom/Units.lean [hunk 4]
```diff
@@ -229,6 +234,7 @@ theorem of_leftInverse [MonoidHomClass F M N] [MonoidHomClass G N M] {f : F} {x
 #align is_unit.of_left_inverse IsUnit.of_leftInverse
 #align is_add_unit.of_left_inverse IsAddUnit.of_leftInverse
 
+-- Prefer `IsLocalRingHom.of_leftInverse`, but we cannot get rid of this because of `ToAdditive`.
```
Comment (j-loreaux) [inline Mathlib/Algebra/Hom/Units.lean:237]:
```suggestion
/-- Prefer `IsLocalRingHom.of_leftInverse`, but we cannot get rid of this because of `ToAdditive`. -/
```

File: Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean [hunk 5]
```diff
@@ -301,6 +301,8 @@ def identityToΓSpec : 𝟭 LocallyRingedSpace.{u} ⟶ Γ.rightOp ⋙ Spec.toLoc
       dsimp [toΓSpecBase]
       rw [ContinuousMap.coe_mk, ContinuousMap.coe_mk]
       dsimp [toΓSpecFun]
+      -- note to reviewers: this was found before the refactor
```
Comment (jcommelin) [inline Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean:304]: What do you mean with this note?
Why is the `have` now needed?

File: Mathlib/RingTheory/Ideal/LocalRing.lean [hunk 6]
```diff
@@ -199,71 +196,40 @@ end LocalRing
...
-class IsLocalRingHom [Semiring R] [Semiring S] (f : R →+* S) : Prop where
-  /-- A local ring homomorphism `f : R ⟶ S` will send nonunits of `R` to nonunits of `S`. -/
-  map_nonunit : ∀ a, IsUnit (f a) → IsUnit a
-#align is_local_ring_hom IsLocalRingHom
-
 section
 
-variable [Semiring R] [Semiring S] [Semiring T]
+/-- If `f : R →+* S` is a local ring hom, then `R` is a local ring if `S` is. -/
+theorem map_local_ring [CommSemiring R] [CommSemiring S] [LocalRing S]
```
Comment (jcommelin) [inline Mathlib/RingTheory/Ideal/LocalRing.lean:202]: Is this the correct name? Shouldn't it be `map_localRing`?
Or even `localRing_of_isLocalRingHom`...

File: Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean (hunk 5 above)
Comment (ericrbg) [reply Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean:304]: that the instance did work before the refactor and was thus broken by this refactor

Comment (ericrbg) [reply Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean:304]: I'm not sure why it breaks now, either

File: Mathlib/RingTheory/Ideal/LocalRing.lean (hunk 6 above)
Comment (ericrbg) [reply Mathlib/RingTheory/Ideal/LocalRing.lean:202]: Yes, I guess it should be `map_localRing`. Changed. If they both fit the naming scheme, I tend to prefer shorter names, personally - I'm not sure if there's opinions about this.

**Review by YaelDillies — COMMENTED** [review]
Could you reduce the diff/downstream breakage by keeping a `RingHom` version of the lemmas (instead of just having the `MonoidHomClass` one)? This will help unification loads and make this PR much more straightforward to get merged. The cost is only a few duplicated lemmas and we can decide on keeping them vs throwing them away later on.

File: Mathlib/Algebra/GroupWithZero/Units/Basic.lean [hunk 7]
```diff
@@ -94,6 +94,10 @@ theorem inverse_unit (u : M₀ˣ) : inverse (u : M₀) = (u⁻¹ : M₀ˣ) := by
   rw [inverse, dif_pos u.isUnit, IsUnit.unit_of_val_units]
 #align ring.inverse_unit Ring.inverse_unit
 
+theorem inverse_of_isUnit {x : M₀} (h : IsUnit x) : inverse x = ((h.unit⁻¹ : M₀ˣ) : M₀) := dif_pos h
+
+alias Ring.inverse_isUnit ← _root_.IsUnit.ringInverse
```
Comment (ericrbg) [inline Mathlib/Algebra/GroupWithZero/Units/Basic.lean:99]:
```suggestion
alias Ring.inverse_of_isUnit ← _root_.IsUnit.ringInverse
```

**Comment by YaelDillies** [comment]
My reasoning is that we're talking about three lemmas vs breakage in a few files.

File: Mathlib/Algebra/Associated.lean [hunk 8]
```diff
@@ -14,7 +14,7 @@ import Mathlib.Algebra.Parity
 -/
 
 
-variable {α : Type*} {β : Type*} {γ : Type*} {δ : Type*}
+variable {α : Type*} {β : Type*} {γ : Type*} {δ : Type*} {F : Type*}
```
Comment (YaelDillies) [inline Mathlib/Algebra/Associated.lean:17]: Collapse them? :smile:

**Comment by YaelDillies** [comment]
That's the thing. I'm not convinced (anymore) that lemmas stated using hom classes are the panacea  If there are elaboration issues, we should derive special cases in terms of the concrete structures.

The primary goal is usability, not library purity. If your lemmas don't unify properly, add some more.

**Comment by YaelDillies** [comment]
That's the thing. I'm not convinced (anymore) that lemmas stated using hom classes are the panacea  If there are elaboration issues, we should derive special cases in terms of the concrete structures.

The primary goal is usability, not library purity. If your lemmas don't unify properly, add some more.

**Comment by ericrbg** [comment]
I've started a thread about this here:

https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/HomClasses.20and.20tooling

I'd love to hear everyone's thoughts.

**Comment by jcommelin** [comment]
I like the spirit of this PR in principal. But it's sad that in several places the performance degrades, and that there is a netto increase of number of lines in the diff. I guess you are adding some new material as well as refactoring?

**Comment by ericrbg** [comment]
The new lines are mostly adding glue code for combining the `MonoidHomClass` version with the specific `RingHom` version, but I will take a further look now this is merged. The merge was really ugly...

**Comment by ericrbg** [comment]
I checked and the new timeouts are still needed even with master merged :/

**Comment by YaelDillies** [comment]
Yeah, I'm really not sure it's worth slowing proofs down when they were working just fine before. I'm happy with the new lemmas, though.

**Comment by ericrbg** [comment]
I don't see why we should stop a big refactor because 3 proofs slowed down - by that logic we shouldn't have ported RingTheory/Kaehler from Lean3!

**Comment by j-loreaux** [comment]
!bench

**Comment by YaelDillies** [comment]
... because it's a change I explicitly warned about, regardless of Lean 3 vs Lean 4. cf all my messages above.

File: Mathlib/Algebra/Group/Units/Hom.lean [hunk 9]
```diff
@@ -518,3 +526,34 @@ protected theorem div_div_cancel_left (h : IsUnit a) : a / b / a = b⁻¹ := by
...
+
+section IsLocalRingHom
+
+variable {G R S T F : Type*}
+
+/-- A local ring homomorphism is a homomorphism `f` between monoids such that `a` in the domain
+  is a unit if `f a` is a unit for any `a`. See `LocalRing.local_hom_TFAE` for other equivalent
+  definitions in the local ring case - from where this concept originates, but it is useful in
+  other contexts, so we allow this generalisation in mathlib. -/
+class IsLocalRingHom [Monoid R] [Monoid S] [MonoidHomClass F R S] (f : F) : Prop where
```
Comment (erdOne) [inline Mathlib/Algebra/Group/Units/Hom.lean:538]: I suggest renaming this to `IsLocalHom` or `MonoidHom.IsLocal`.

File: Mathlib/AlgebraicGeometry/Spec.lean [hunk 10]
```diff
@@ -262,12 +262,13 @@ def Spec.locallyRingedSpaceMap {R S : CommRingCat} (f : R ⟶ S) :
...
-        (f := (Localization.localRingHom (PrimeSpectrum.comap f p).asIdeal p.asIdeal f _)) _ ha
-      convert RingHom.isUnit_map (stalkIso R (PrimeSpectrum.comap f p)).inv ha
+      convert (ha.of_map).map (stalkIso R (PrimeSpectrum.comap f p)).inv
       erw [← comp_apply, show stalkToFiberRingHom R _ = (stalkIso _ _).hom from rfl,
-        Iso.hom_inv_id, id_apply]
+           Iso.hom_inv_id, id_apply]
+      -- note to reviewers: before refactor, this instance was found by instance search.
+      -- maybe it's worth writing a version that has `hIJ` automatically? I guess instance
+      -- search tried `rfl` before there.
+      exact Localization.isLocalRingHom_localRingHom (PrimeSpectrum.comap f p).asIdeal _ f rfl
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Spec.lean:271]: Does adding an abbrev `IsLocalRingHom (f : R →+* S)  := IsLocalHom f` solve these issues?

**Comment by erdOne** [comment]
!bench

**Comment by ericrbg** [comment]
Sorry Andrew, I haven't gotten around to doing the fixes! Hopefully will get some chance today.

**Comment by jjdishere** [comment]
Following (discussion on zulip)[https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/generalize.20IsLocalRingHom.20to.20IsLocalMonoidHom/], I would like to finish the remaining work of this PR. As a better solution of #17089

File: Mathlib/Algebra/Group/Units/Hom.lean (hunk 9 above)
Comment (jjdishere) [reply Mathlib/Algebra/Group/Units/Hom.lean:219]: I shall use the name `IsLocalHom`.

**Comment by jjdishere** [comment]
I further removed the requirement of `F` being a `MonoidHomClass` in the definition of `IsLocalHom`. But all meaningful lemmas are developed with a further condition `MonoidHomClass F M N`

**Comment by jjdishere** [comment]
In order to split the PR into smaller pieces, I will add another PR complete to rename `IsLocalRingHom` to `IsLocalHom`.

File: Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean [hunk 11]
```diff
@@ -282,6 +282,8 @@ def identityToΓSpec : 𝟭 LocallyRingedSpace.{u} ⟶ Γ.rightOp ⋙ Spec.toLoc
         = toΓSpecFun X x := by rw [ContinuousMap.coe_mk]
       erw [this]
       dsimp [toΓSpecFun]
+      -- note to reviewers: this instance was found automatically before the refactor
+      have := @AlgebraicGeometry.LocallyRingedSpace.isLocalRingHomStalkMap X Y
```
Comment (jcommelin) [inline Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean:286]:
```suggestion
      -- TODO: this instance was found automatically before #6045
      have := @AlgebraicGeometry.LocallyRingedSpace.isLocalRingHomStalkMap X Y
```
could you please add a similar comment in all other places where a `have`/`let` is now needed?
Please include the number `#6045` in the comment, so that it in the future it will be easy to find all places where this happened.

File: Mathlib/Geometry/RingedSpace/LocallyRingedSpace/HasColimits.lean [hunk 12]
```diff
@@ -247,6 +247,7 @@ noncomputable def coequalizer : LocallyRingedSpace where
   localRing x := by
     obtain ⟨y, rfl⟩ :=
       (TopCat.epi_iff_surjective (coequalizer.π f.val g.val).base).mp inferInstance x
+    have _ : IsLocalRingHom ((coequalizer.π f.val g.val).stalkMap y) := inferInstance
```
Comment (jjdishere) [inline Mathlib/Geometry/RingedSpace/LocallyRingedSpace/HasColimits.lean:250]:
```suggestion
    -- TODO: this instance was found automatically before #6045
    have _ : IsLocalRingHom ((coequalizer.π f.val g.val).stalkMap y) := inferInstance
```

File: Mathlib/Geometry/RingedSpace/LocallyRingedSpace/ResidueField.lean [hunk 13]
```diff
@@ -101,6 +109,7 @@ lemma residueFieldMap_comp {Z : LocallyRingedSpace.{u}} (g : Y ⟶ Z) (x : X) :
   simp only [comp_val, SheafedSpace.comp_base, Function.comp_apply, residueFieldMap]
   simp_rw [stalkMap_comp]
   haveI : IsLocalRingHom (g.stalkMap (f.val.base x)) := inferInstance
+  haveI : IsLocalRingHom (f.stalkMap x) := inferInstance
```
Comment (jjdishere) [inline Mathlib/Geometry/RingedSpace/LocallyRingedSpace/ResidueField.lean:112]:
```suggestion
  -- TODO: This instance is found before #6045. 
  haveI : IsLocalRingHom (f.stalkMap x) := inferInstance
```

File: Mathlib/Geometry/RingedSpace/OpenImmersion.lean [hunk 14]
```diff
@@ -982,7 +985,7 @@ def pullbackConeOfLeftIsLimit : IsLimit (pullbackConeOfLeft f g) :=
       change _ = _ ≫ s.snd.1.stalkMap x at this
       rw [PresheafedSpace.stalkMap.comp, ← IsIso.eq_inv_comp] at this
       rw [this]
-      infer_instance
+      apply CommRingCat.isLocalRingHom_comp
```
Comment (jjdishere) [inline Mathlib/Geometry/RingedSpace/OpenImmersion.lean:988]:
```suggestion
      -- TODO: This instance is found by `infer_instance` before #6045.
      apply CommRingCat.isLocalRingHom_comp
```

File: Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean (hunk 11 above)
Comment (jjdishere) [reply Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean]: Sure! I've added comments to all places where a new `have` is required.

File: Mathlib/AlgebraicGeometry/Spec.lean [hunk 15]
```diff
@@ -236,6 +236,7 @@ def Spec.locallyRingedSpaceMap {R S : CommRingCat.{u}} (f : R ⟶ S) :
       #adaptation_note /-- nightly-2024-04-01
       It's this `erw` that is blowing up. The implicit arguments differ significantly. -/
       erw [← localRingHom_comp_stalkIso_apply] at ha
+      haveI : IsLocalRingHom (stalkIso (↑S) p).inv := isLocalRingHom_of_isIso _
```
Comment (jjdishere) [inline Mathlib/AlgebraicGeometry/Spec.lean:239]:
```suggestion
      -- TODO: this instance was found automatically before #6045
      haveI : IsLocalRingHom (stalkIso (↑S) p).inv := isLocalRingHom_of_isIso _
```

File: Mathlib/Algebra/GroupWithZero/Units/Basic.lean [hunk 16]
```diff
@@ -87,6 +87,10 @@ noncomputable def inverse : M₀ → M₀ := fun x => if h : IsUnit x then ((h.u
 theorem inverse_unit (u : M₀ˣ) : inverse (u : M₀) = (u⁻¹ : M₀ˣ) := by
   rw [inverse, dif_pos u.isUnit, IsUnit.unit_of_val_units]
 
+theorem inverse_of_isUnit {x : M₀} (h : IsUnit x) : inverse x = ((h.unit⁻¹ : M₀ˣ) : M₀) := dif_pos h
+
+alias _root_.IsUnit.ringInverse := Ring.inverse_of_isUnit
```
[the remark this answers is not in the document]
Comment (jjdishere) [reply Mathlib/Algebra/GroupWithZero/Units/Basic.lean:92]: Thank you, I'll change this `IsUnit.ringInverse`

[the remark this answers is not in the document]
Comment (jjdishere) [reply Mathlib/Algebra/GroupWithZero/Units/Basic.lean]: Fixed. Now `IsUnit.ringInverse` is a lemma for `IsUnit x → IsUnit (Ring.inverse x)` while  `inverse_of_isUnit` remains the same.

**Review by jcommelin — COMMENTED** [review]
maintainer merge

**Comment by YaelDillies** [comment]
!bench

**Comment by riccardobrasca** [comment]
Thanks!

bors merge

**Comment by riccardobrasca** [comment]
bors d+

**Comment by riccardobrasca** [comment]
Sorry @jjdishere you are not the original author of the PR.

bors delegate=[jjdishere]

**Comment by riccardobrasca** [comment]
bors d=jjdishere
